US04906624
The allyl alcohol, 8, is reoxidized to the aldehyde, 9, by Swern oxidation, followed by an aldol condensation to the sodium lithium dianion of ethyl acetoacetate at -78° C. in tetrahydrofuran. (See Kraus, et al, J. Org. Chem., 48: 2111 (1983)) to form the 5-hydroxy-3-oxo-6-heptenoic acid-ethyl ester, 10.

reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | sodium lithium | [Li].[Na]
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-hydroxy-3-oxo-6-heptenoic acid-ethyl ester | C(C)OC(CC(CC(C=C)O)=O)=O | C9H14O4
